US07323469B2
4-(4-Chloro-7H-pyrrolo[2,3-d]pyrimidin-6-yl)-benzonitrile
4-(4-Hydroxy-7H-pyrrolo[2,3-d]pyrimidin-6-yl)-benzonitrile (2.36 g, 0.01 mol) are suspended in 40 ml acetonitril and 4.99 ml (0.02 mol) 4 N hydrochloric acid solution in dioxane. After addition of 3.66 ml (0.04 mol) phosphorus oxichloride the mixture is heated under reflux for 3 days. The solid is filtered off and the mother liquor evaporated. The residue and the solid are dissolved in 30 ml DMF at 60° C. and 25 ml of a conc. sodium bicarbonate solution and 25 ml water are added and the resulting suspension cooled, filtered and the solid washed with water. The title compound is dried at 100° C. for 6 h under reduced pressure; m.p. 296-297° C.; HPLC tR=11.59 min.

reactant | 4-(4-Hydroxy-7H-pyrrolo[2,3-d]pyrimidin-6-yl)-benzonitrile | 0.01 mol, 2.36 g | OC=1C2=C(N=CN1)NC(=C2)C2=CC=C(C#N)C=C2 | C13H8N4O
reactant | hydrochloric acid | 0.02 mol, 4 N, 4.99 ml | Cl | ClH
reactant | phosphorus oxichloride | 0.04 mol, 3.66 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | acetonitril | 40 ml | C(C)#N | C2H3N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-(4-Chloro-7H-pyrrolo[2,3-d]pyrimidin-6-yl)-benzonitrile | ClC=1C2=C(N=CN1)NC(=C2)C2=CC=C(C#N)C=C2 | C13H7ClN4
